US06251926B1
Lithium hydroxide monohydrate (76.0 mg) was added to a solution of methyl E4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyrate (430 mg) in tetrahydrofuran (6 ml)-water (4 ml)-methanol (4 ml) and stirred at room temperature for 2 hours. 1N hydrochloric acid (1.9 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyric acid (328 mg, yield 79%) as colorless crystals. m.p. 124-125° C.

reactant | Lithium hydroxide monohydrate | 76.0 mg | O.[OH-].[Li+]
reactant | methyl E4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyrate | 430 mg | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1)C | C27H26N2O6
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 1.9 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | E-4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxyimino]-4-phenylbutyric acid | 328 mg, yield 79% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CO\N=C(/CCC(=O)O)\C2=CC=CC=C2)C=C1)C | C26H24N2O6
